US08580957B2
(cis)-1-Acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 25) (100 mg, 0.265 mmol), racemic BINAP (8.25 mg, 0.013 mmol), sodium tert-butoxide (30.5 mg, 0.318 mmol), 2-chloropyridine (0.025 ml, 0.265 mmol) and tris(dibenzylideneacetone)dipalladium(0) (12.13 mg, 0.013 mmol) were suspended in toluene (2.5 mL) under nitrogen and the resulting mixture was stirred at 100° C. for 5 h under microwave irradiation then cooled to room temperature and partitioned between AcOEt (20 mL) and 1:1 saturated NaHCO3 aqueous solution:water (5 mL). The layers were separated and the organic phase washed with saturated NaHCO3 aqueous solution:water (5 mL) then brine (5 mL), dried over Na2SO4 and concentrated in vacuo. Purification of the residue by MDAP (modifier: formic acid) gave (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-N-2-pyridinyl-1,2,3,4-tetrahydro-4-quinolinamine formate salt (31.9 mg, 0.062 mmol, 24%) as a white solid.

reactant | (cis)-1-Acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)N)C | C24H31N3O
reactant | BINAP | 0.013 mmol, 8.25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.318 mmol, 30.5 mg | CC(C)([O-])C.[Na+]
reactant | 2-chloropyridine | 0.265 mmol, 0.025 ml | ClC1=NC=CC=C1 | C5H4ClN
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 12.13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-N-2-pyridinyl-1,2,3,4-tetrahydro-4-quinolinamine formate salt | 0.062 mmol, 31.9 mg, 24% | C(=O)O.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)NC1=NC=CC=C1)C | InChI=1S/C29H34N4O.CH2O2/c1-21-18-27(31-29-8-4-5-15-30-29)26-19-25(13-14-28(26)33(21)22(2)34)24-11-9-23(10-12-24)20-32-16-6-3-7-17-32;2-1-3/h4-5,8-15,19,21,27H,3,6-7,16-18,20H2,1-2H3,(H,30,31);1H,(H,2,3)/t21-,27+;/m0./s1
